** Name: SimpleOpAmp79

.MACRO SimpleOpAmp79 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=25e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=13e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=42e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=75e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=88e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=134e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=134e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=75e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=70e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=70e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=105e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=395e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=109e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=8e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=395e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=66e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=66e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp79

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 2.63501 mW
** Area: 4706 (mu_m)^2
** Transit frequency: 10.3011 MHz
** Transit frequency with error factor: 10.3014 MHz
** Slew rate: 9.32755 V/mu_s
** Phase margin: 77.3494°
** CMRR: 146 dB
** VoutMax: 3.81001 V
** VoutMin: 0.360001 V
** VcmMax: 4.93001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorPmos: -221.958 muA
** NormalTransistorPmos: -16.2519 muA
** NormalTransistorPmos: -80.2109 muA
** NormalTransistorPmos: -134.396 muA
** NormalTransistorPmos: -80.2109 muA
** NormalTransistorPmos: -134.396 muA
** NormalTransistorNmos: 80.2101 muA
** NormalTransistorNmos: 80.2091 muA
** NormalTransistorNmos: 80.2101 muA
** NormalTransistorNmos: 80.2091 muA
** NormalTransistorNmos: 108.37 muA
** NormalTransistorNmos: 108.369 muA
** NormalTransistorNmos: 54.1851 muA
** NormalTransistorNmos: 54.1851 muA
** DiodeTransistorNmos: 221.959 muA
** DiodeTransistorNmos: 16.2511 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.23301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX1: 0.967001  V
** outVoltageBiasXXnXX2: 0.576001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.371001  V
** innerTransistorStack1Load2: 0.367001  V
** innerTransistorStack2Load2: 0.368001  V
** out1: 0.573001  V
** sourceGCC1: 3.94701  V
** sourceGCC2: 3.94701  V
** sourceTransconductance: 1.92901  V


.END