** Name: SimpleOpAmp81

.MACRO SimpleOpAmp81 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=4e-6 W=33e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=7e-6 W=33e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=205e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=185e-6
mNormalTransistorNmos8 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=7e-6 W=33e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=75e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=4e-6 W=33e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=46e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=46e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=78e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=108e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=108e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=117e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=117e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp81

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 1.34901 mW
** Area: 2854 (mu_m)^2
** Transit frequency: 4.92501 MHz
** Transit frequency with error factor: 4.925 MHz
** Slew rate: 4.65325 V/mu_s
** Phase margin: 88.2356°
** CMRR: 140 dB
** VoutMax: 4.10001 V
** VoutMin: 0.980001 V
** VcmMax: 5.22001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 122.571 muA
** NormalTransistorPmos: -43.8619 muA
** NormalTransistorPmos: -68.6229 muA
** NormalTransistorPmos: -43.8619 muA
** NormalTransistorPmos: -68.6229 muA
** DiodeTransistorNmos: 43.8611 muA
** NormalTransistorNmos: 43.8601 muA
** NormalTransistorNmos: 43.8611 muA
** DiodeTransistorNmos: 43.8601 muA
** NormalTransistorNmos: 49.5211 muA
** NormalTransistorNmos: 49.5201 muA
** NormalTransistorNmos: 24.7601 muA
** NormalTransistorNmos: 24.7601 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -122.57 muA
** DiodeTransistorPmos: -122.569 muA


** Expected Voltages: 
** ibias: 1.15101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.03601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 4.25401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.596001  V
** innerTransistorStack1Load2: 0.652001  V
** innerTransistorStack2Load2: 0.655001  V
** out1: 1.39001  V
** sourceGCC1: 3.75  V
** sourceGCC2: 3.75  V
** sourceTransconductance: 1.93501  V


.END