** Name: SimpleOpAmp86

.MACRO SimpleOpAmp86 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=7e-6 W=9e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=4e-6 W=10e-6
mNormalTransistorNmos5 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=44e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=31e-6
mNormalTransistorNmos7 FirstStageYout1 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mNormalTransistorPmos8 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=4e-6 W=27e-6
mNormalTransistorPmos9 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=7e-6 W=7e-6
mNormalTransistorPmos10 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=7e-6 W=77e-6
mNormalTransistorPmos11 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=4e-6 W=27e-6
mNormalTransistorPmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=3e-6 W=64e-6
mNormalTransistorPmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=3e-6 W=64e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp86

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 0.575001 mW
** Area: 1533 (mu_m)^2
** Transit frequency: 3.29901 MHz
** Transit frequency with error factor: 3.29883 MHz
** Slew rate: 8.68506 V/mu_s
** Phase margin: 85.3708°
** CMRR: 139 dB
** VoutMax: 3.58001 V
** VoutMin: 0.840001 V
** VcmMax: 3.5 V
** VcmMin: 0.770001 V


** Expected Currents: 
** NormalTransistorNmos: 30.4551 muA
** NormalTransistorPmos: -7.90299 muA
** NormalTransistorPmos: -28.2799 muA
** NormalTransistorPmos: -28.2809 muA
** NormalTransistorNmos: 28.2791 muA
** NormalTransistorNmos: 28.2801 muA
** DiodeTransistorNmos: 28.2791 muA
** NormalTransistorPmos: -87.0149 muA
** NormalTransistorPmos: -28.2799 muA
** NormalTransistorPmos: -28.2799 muA
** DiodeTransistorNmos: 7.90201 muA
** DiodeTransistorPmos: -30.4559 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.77401  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.557001  V
** outVoltageBiasXXpXX1: 1.94801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.33501  V
** innerTransistorStack2Load2: 0.693001  V
** out1: 1.24901  V
** sourceGCC1: 2.99801  V
** sourceGCC2: 2.99801  V


.END