** Name: SimpleOpAmp88

.MACRO SimpleOpAmp88 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=10e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=18e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=5e-6 W=16e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=20e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=4e-6 W=4e-6
mNormalTransistorNmos6 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=16e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=8e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=18e-6
mNormalTransistorPmos9 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=4e-6 W=174e-6
mNormalTransistorPmos10 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mNormalTransistorPmos11 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=94e-6
mNormalTransistorPmos12 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=4e-6 W=174e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=55e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=55e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp88

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 0.353001 mW
** Area: 2224 (mu_m)^2
** Transit frequency: 4.72201 MHz
** Transit frequency with error factor: 4.72182 MHz
** Slew rate: 4.73911 V/mu_s
** Phase margin: 71.6198°
** CMRR: 146 dB
** VoutMax: 4.44001 V
** VoutMin: 0.970001 V
** VcmMax: 4.05001 V
** VcmMin: 0.980001 V


** Expected Currents: 
** NormalTransistorNmos: 2.38001 muA
** NormalTransistorPmos: -3.01099 muA
** NormalTransistorPmos: -22.6369 muA
** NormalTransistorPmos: -22.6369 muA
** DiodeTransistorNmos: 22.6361 muA
** DiodeTransistorNmos: 22.6351 muA
** NormalTransistorNmos: 22.6361 muA
** NormalTransistorNmos: 22.6351 muA
** NormalTransistorPmos: -47.6519 muA
** NormalTransistorPmos: -22.6359 muA
** NormalTransistorPmos: -22.6359 muA
** DiodeTransistorNmos: 3.01001 muA
** DiodeTransistorPmos: -2.38099 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.562001  V
** outVoltageBiasXXpXX1: 2.28501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21501  V
** innerSourceLoad2: 0.677001  V
** innerTransistorStack2Load2: 0.675001  V
** out1: 1.37001  V
** sourceGCC1: 3.02001  V
** sourceGCC2: 3.02001  V


.END