** Name: SimpleOpAmp117

.MACRO SimpleOpAmp117 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=57e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=83e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=116e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=16e-6
mNormalTransistorNmos8 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=182e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos10 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=593e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=566e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=182e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=273e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=273e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=4e-6 W=498e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=443e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=4e-6 W=116e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp117

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 3.16001 mW
** Area: 11044 (mu_m)^2
** Transit frequency: 36.1321 MHz
** Transit frequency with error factor: 36.1319 MHz
** Slew rate: 55.4773 V/mu_s
** Phase margin: 80.2142°
** CMRR: 137 dB
** VoutMax: 4.14001 V
** VoutMin: 0.600001 V
** VcmMax: 3.83001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 41.2271 muA
** NormalTransistorNmos: 16.0121 muA
** NormalTransistorPmos: -218.079 muA
** NormalTransistorNmos: 173.322 muA
** NormalTransistorNmos: 173.322 muA
** DiodeTransistorPmos: -173.321 muA
** NormalTransistorPmos: -173.321 muA
** NormalTransistorPmos: -173.321 muA
** NormalTransistorNmos: 564.723 muA
** NormalTransistorNmos: 564.722 muA
** NormalTransistorNmos: 173.322 muA
** NormalTransistorNmos: 173.322 muA
** DiodeTransistorNmos: 218.08 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -41.2279 muA
** DiodeTransistorPmos: -16.0129 muA


** Expected Voltages: 
** ibias: 1.125  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.48501  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.02801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.570001  V
** innerTransistorStack2Load2: 4.32701  V
** out1: 3.85501  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END